US06358971B1
2-Amino-3-(2,6-difluorophenyl)-6-benzoyl-imidazo[1,2-a]pyridine
The 2-trifluoroacetamido-3-(2,6-difluorophenyl)-6-benzoyl-imidazo[1,2-a]pyridine (6.01 g, 13.5 mmol) was converted to product in a manner substantially analogous to Example 56 to yield 3.42 9. (72.6%). EA, MS(FD).

reactant | 2-trifluoroacetamido-3-(2,6-difluorophenyl)-6-benzoyl-imidazo[1,2-a]pyridine | 13.5 mmol, 6.01 g | FC(C(=O)NC=1N=C2N(C=C(C=C2)C(C2=CC=CC=C2)=O)C1C1=C(C=CC=C1F)F)(F)F | C22H12F5N3O2
solvent | EA | CC(OCC)=O | C4H8O2
product | 2-Amino-3-(2,6-difluorophenyl)-6-benzoyl-imidazo[1,2-a]pyridine | NC=1N=C2N(C=C(C=C2)C(C2=CC=CC=C2)=O)C1C1=C(C=CC=C1F)F | C20H13F2N3O
